US07868030B2
i) 2-(4-Methoxy-phenyl)-3-methyl-thiophene
2-Bromo-3-methyl-thiophene (0.53 g, 3.00 mmol) was dissolved in 1,4-dioxane (35 ml) under an argon atmosphere. To this solution were added Pd(PPh3)4 (0.33 g, 0.28 mmol), 4-methoxyphenyl boronic acid (0.50 g, 3.30 mmol) and 2 M Na2CO3 (6 ml). The resultant mixture was stirred at 100° C. for 2 hours. The reaction was cooled to rt diluted with tert.butyl methyl ether and poured into water and extracted with tert.butyl methyl ether (2×). The combined organic extracts were washed with water, brine, dried (MgSO4.2H2O), filtered and concentrated under reduced pressure to yield a yellow oil that was purified over silica gel (n-heptane) to yield an oil: 0.32 g (48%), GC-MS: M=204.

reactant | 2-Bromo-3-methyl-thiophene | 3.00 mmol, 0.53 g | BrC=1SC=CC1C | C5H5BrS
reactant | 4-methoxyphenyl boronic acid | 3.30 mmol, 0.50 g | COC1=CC=C(C=C1)B(O)O | C7H9BO3
reactant | Na2CO3 | 2 M, 6 ml | C(=O)([O-])[O-].[Na+].[Na+]
reactant | water | O | H2O
solvent | 1,4-dioxane | 35 ml | O1CCOCC1 | C4H8O2
solvent | tert.butyl methyl ether | COC(C)(C)C | C5H12O
catalyst | Pd(PPh3)4 | 0.28 mmol, 0.33 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 2-(4-Methoxy-phenyl)-3-methyl-thiophene | COC1=CC=C(C=C1)C=1SC=CC1C | C12H12OS
